US08865894B2
Step 10.1: (S)-4-(4,6-Dichloro-pyrimidin-2-yl)-3-methyl-morpholine
The 2,4,6-trichloropyrimidine (100 mg, 053 mmol) was dissolved in dioxane (2 mL) with DIPEA (280 μL, 1.6 mmol) and (S)-3-methylmorpholine (54 mg, 0.53 mmol). The reaction mixture was heated at 130° C. under microwave irradiations for 15 min. It was then diluted with EtOAc and washed with brine. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by preparative HPLC (Waters Sun Fire C18, 30×100 mm, 5 um; 0.1% TFA-water/acetonitrile; gradient acetonitrile 5-100% in 20 min) to afford the title compound (45 mg, 34%). tR: 3.70 min (HPLC 1); ESI-MS: 248.2/250.2 [M+H]+ (LC-MS 1).

reactant | 2,4,6-trichloropyrimidine | 100 mg | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | DIPEA | 1.6 mmol, 280 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-methylmorpholine | 0.53 mmol, 54 mg | C[C@@H]1NCCOC1 | C5H11NO
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-(4,6-Dichloro-pyrimidin-2-yl)-3-methyl-morpholine | 45 mg, 34% | ClC1=NC(=NC(=C1)Cl)N1[C@H](COCC1)C | C9H11Cl2N3O
